US09062076B2
A solution of 6,7-dimethoxy-1,2,3,4-tetrahydronaphthalen-1-ol (208 mg, 1 mmol) in dry DMF (5 mL) was cooled in an ice bath and phosphoryl chloride (0.2 mL, 2.3 mmol) was added dropwise. The reaction mixture was heated at 90° C. for 3 hours, then cooled and treated with a cold saturated aqueous solution of sodium acetate (2 mL) and stirred at room temperature for 10 min. Water was added and the mixture was extracted with DCM. The combined organic phase was washed with brine and dried over sodium sulfate. The solvent was then removed under reduced pressure to afford 6,7-dimethoxy-3,4-dihydronaphthalene-2-carbaldehyde as white solid (160 mg, 46%). LC-MS (ES-API); rt 8.23 min; m/z calculated for C13H14O3 [M+H]+ 219.1, found 219.0.

reactant | 6,7-dimethoxy-1,2,3,4-tetrahydronaphthalen-1-ol | 1 mmol, 208 mg | COC=1C=C2CCCC(C2=CC1OC)O | C12H16O3
reactant | phosphoryl chloride | 2.3 mmol, 0.2 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium acetate | 2 mL | C(C)(=O)[O-].[Na+]
reactant | Water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 6,7-dimethoxy-3,4-dihydronaphthalene-2-carbaldehyde | 160 mg, 46% | COC=1C=C2CCC(=CC2=CC1OC)C=O | C13H14O3
